US05523458
Synthesis of (2S,3S,5S)-2-amino-5-acetylamino-1,6-diphenyl-3-hexanol
To a solution of 100 g of (2S,3S,5S)-2-(N,N-dibenzylamino)-5-acetylamino-1,6-diphenyl-3-hexanol in 500 ml of methanol, was added 5 g of 5%-palladium-carbon (product of N. E. Chemcat), and the reaction mixture was stirred at 30° C. for 30 hours under a hydrogen atmosphere of 10 atm.

reactant | (2S,3S,5S)-2-(N,N-dibenzylamino)-5-acetylamino-1,6-diphenyl-3-hexanol | 100 g | C(C1=CC=CC=C1)N(CC1=CC=CC=C1)[C@@H](CC1=CC=CC=C1)[C@H](C[C@H](CC1=CC=CC=C1)NC(C)=O)O | C34H38N2O2
solvent | methanol | 500 ml | CO | CH4O
catalyst | palladium-carbon | [C].[Pd]
product | (2S,3S,5S)-2-amino-5-acetylamino-1,6-diphenyl-3-hexanol | N[C@@H](CC1=CC=CC=C1)[C@H](C[C@H](CC1=CC=CC=C1)NC(C)=O)O | C20H26N2O2
